US05441949
To a suspension of 8-carboxy-6-nitroquinoline (4 g; 18 mM) in methanol (70 ml) was added SnCl2 (20.4 g; 90 mM). The mixture was heated to, and maintained at 40° C. until dissolution of the insoluble. After evaporation of the :solvent, the residue was taken-up in a 2M aqueous solution of NaOH and purified by subjecting to chromatography on Dowex 1X2 Resin. After basification (pH3) with concentrated NH4OH the resulting solid was further purified by subjecting to chromatography on HP20SS resin, eluting with MeOH/H2O--AcOH 1% (30.70) to give 6-amino-8-carboxyquinoline (1.2 g, 35.5%)

reactant | 8-carboxy-6-nitroquinoline | 18 mM, 4 g | C(=O)(O)C=1C=C(C=C2C=CC=NC12)[N+](=O)[O-] | C10H6N2O4
reactant | SnCl2 | 90 mM, 20.4 g | Cl[Sn]Cl
solvent | methanol | 70 ml | CO | CH4O
product | 6-amino-8-carboxyquinoline | 1.2 g, 35.5% | NC=1C=C2C=CC=NC2=C(C1)C(=O)O | C10H8N2O2
